* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N2222
Q_Q3         $N_0005 $N_0004 $N_0006 Q2N2222
Q_Q2         $N_0005 $N_0007 $N_0004 Q2N2222
R_R1         $N_0009 $N_0008  1.8k  
C_C1         $N_0008 $N_0001  1.2u  
C_C2         $N_0002 $N_0007  1.2u  
C_C3         $N_0006 $N_0010  1.2u  
V_V3         $N_0009 0 DC 0V AC 12V 
C_C4         0 0  1.2u  
V_V1         $N_0005 0 12V
R_R7         0 $N_0010  1M  
R_R6         0 $N_0006  12  
R_R3         0 $N_0001  40k  
R_R5         $N_0002 $N_0005  50k  
R_R4         0 $N_0003  5k  
R_R2         $N_0001 $N_0005  40k  
